data/mechanisms/records/IMS8-EQ8.15b.json
{"mechanism_id": "IMS8-EQ8.15b", "species": [{"species_id": "protonated_phenyl_3_butenyl_ether", "mapped_smiles": "[OH+:7]([CH2:9][CH:10]([1H:20])[CH:11]=[CH2:12])[c:1]1[cH:2][cH:3][cH:4][cH:5][cH:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "phenol_neutral", "mapped_smiles": "[OH:7][c:1]1[cH:2][cH:3][cH:4][cH:5][cH:6]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "but_2_enyl_cation", "mapped_smiles": "[CH2+:9][CH:10]=[CH:11][CH2:12][1H:20]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_phenyl_3_butenyl_ether"]}, {"state_id": "state_products", "species_ids": ["phenol_neutral", "but_2_enyl_cation"]}], "steps": [{"step_id": "step_hydrogen_rearrangement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [10, 20]}, "target": {"type": "bond", "atom_maps": [10, 11]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [11, 12]}, "target": {"type": "bond", "atom_maps": [12, 20]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 148, "equation": "8.15", "section": "8.x Proton-bound complexes in CI: protonated phenyl 3-butenyl ether"}, "confidence": 0.75, "curator_note": "The book (eq 8.15) DRAWS a proton-bound complex [PhO...H...butadiene] as the intermediate from the methane-CI [M+H]+ ion of phenyl 3-butenyl ether; the non-covalent complex is NOT separately encoded (partial bonds not RDKit-representable) - this record encodes the net rH reaction precursor->but-2-enyl cation (76%). 0 electron-pushing arcs drawn (only 'rH' reaction arrows). Equation 8.15, branch giving protonated butadiene (drawn as H3C-CH=CH-CH2+ and labelled 76% on the page). Same precursor (protonated phenyl 3-butenyl ether, MH+ from methane CI) and same rH to the proton-bound complex [phenol...H+...butadiene] as branch 8.15a, but here the shared proton stays on the butadiene (PA 8.4 eV) -> neutral phenol + protonated butadiene, the resonance-stabilised but-2-enyl (1-methylallyl) cation C4H7+ (m/z 55). INTERMEDIATE OMITTED (non-covalent proton-bound complex): encoded as the NET rearrangement in one formal-arrow step. RESONANCE: the C4H7+ product is allylic, CH3-CH=CH-CH2+ <-> CH3-CH+-CH=CH2; I encode the single localised Kekule form the page draws (cation on C9, C10=C11 double bond, CH3 at C12). Book draws 0 electron-pushing arcs; all three encoded moves are reconstructed for electron balance (not drawn on the page): move <1> is a heterolytic O7-C9 cleavage taking that bonding pair onto O7 (neutralising the oxonium to neutral phenol and leaving C9 as the primary cation), moves <2> and <3> perform the allylic H-relay that delivers the beta H (H20) from C10 to the terminal C12 while shifting the C11=C12 pi bond to C10=C11 -- net, H20 migrates C10 -> C12 and the double bond walks, giving the but-2-enyl cation drawn in the book. Closed-shell throughout. Migrating H written as isotope-tagged [1H:20] so RDKit preserves its map."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "electron_energy_ev": null, "precursor_mz": 149.0955, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_C4H7", "species_id": "but_2_enyl_cation", "step_id": "step_hydrogen_rearrangement", "observed_mz": 55.0537, "relative_intensity": 0.76, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
